US08071651B2
50 6-Bromo-3-(3-methoxypropyl)-2-methylimidazo[1,2-a]pyrimidine
0.85 mmol of 5-bromopyrimidin-2-ylamine [7752-82-1] and 1.7 mmol of 3-chloro-6-methoxyhexan-2-one are reacted in analogy to building block 35. The title compound is identified by means of the Rf.

reactant | 5-bromopyrimidin-2-ylamine | 0.85 mmol | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | 3-chloro-6-methoxyhexan-2-one | 1.7 mmol | ClC(C(C)=O)CCCOC | C7H13ClO2
product | 6-Bromo-3-(3-methoxypropyl)-2-methylimidazo[1,2-a]pyrimidine | BrC=1C=NC=2N(C1)C(=C(N2)C)CCCOC | C11H14BrN3O
